US07468375B2
Step 1: Ethyl 3-methyl-5-oxo-2-propyl-2,5-dihydroisoxazole-4-carboxylate.
To a stirred solution of ethyl 3-methyl-5-oxo-2,5-dihydroisoxazole-4-carboxylate sodium salt [prepared according G. Doleschall, Tetrahedron Lett. 1987, 28, 2993-2994] (3.5 g, 18.1 mmol) in DMF (20 mL) was added 1-iodopropane (1.70 g, 18.1 mmol). The resulting mixture was heated to 120° C. for 1 hr. When cooled down, it was poured into ice-water (30 mL), and extracted with dichloromethane (2×50 mL). The organic layer was washed with water (2×50 mL), dried over sodium sulfate, concentrated and purified by flash chromatography with ethyl acetate/hexanes (1/1) to provide a solid product (0.52 g, 13% yield). 1H NMR (CDCl3) δ ppm 4.33 (q, 2H, J=7.1 Hz), 3.86 (t, 2H, J=6.8 Hz), 2.57 (s, 3H), 1.81-1.88 (m, 2H), 1.37 (t, 3H, J=7.1 Hz), 0.98 (t, 3H, J=7.6 Hz). LCMS (APCI, M+H+): 214.1.

reactant | ethyl 3-methyl-5-oxo-2,5-dihydroisoxazole-4-carboxylate sodium salt | 18.1 mmol, 3.5 g | [Na].CC=1NOC(C1C(=O)OCC)=O
reactant | 1-iodopropane | 18.1 mmol, 1.70 g | ICCC | C3H7I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Ethyl 3-methyl-5-oxo-2-propyl-2,5-dihydroisoxazole-4-carboxylate | 0.52 g, 13% yield | CC=1N(OC(C1C(=O)OCC)=O)CCC | C10H15NO4
